US04450272
N-Butyl-4-(2-pyrazinyl)-1-piperazinethiocarboxamide
To a solution of 4.92 g. of 1-(2-pyrazinyl)piperazine in 80 ml. of anhydrous ether is added a solution of 3.45 g. of n-butyl isothiocyanate in 50 ml. of anhydrous ether, dropwise during 5 minutes. The mixture is stirred for 30 minutes and the resulting solid is collected and dissolved in 50 ml. of ethanol. Cooling and the addition of 2 ml. of water gives 4.96 g. of the desired product as white crystals, m.p. 97.5°-98.5° C.

reactant | 1-(2-pyrazinyl)piperazine | N1=C(C=NC=C1)N1CCNCC1 | C8H12N4
reactant | n-butyl isothiocyanate | C(CCC)N=C=S | C5H9NS
solvent | ether | CCOCC | C4H10O
product | N-Butyl-4-(2-pyrazinyl)-1-piperazinethiocarboxamide | C(CCC)NC(=S)N1CCN(CC1)C1=NC=CN=C1 | C13H21N5S
